US05112834
22. 3-formyl-8-(2-(trans)-hydroxy-2,3-dihydro-1-indenyloxy)-2-methyl-imidazo[1,2-a]pyridine
A mixture of 4.4 g (25 mmol) 3-formyl-8-hydroxy-2-methyl-imidazo[1,2-a]pyridine, 10.7 g (50 mmol) (trans)-2-bromo-1-indanol and 13.8 g of potassium carbonate is stirred in 120 ml of methanol/water (4:1) for 16 hours at 40° C. The mixture is worked up analogously to Example 21 and the yield of the title compound m.p. 200°-202° C. (from methanol) is 4.8 g (62%).

reactant | 3-formyl-8-hydroxy-2-methyl-imidazo[1,2-a]pyridine | 25 mmol, 4.4 g | C(=O)C1=C(N=C2N1C=CC=C2O)C | C9H8N2O2
reactant | (trans)-2-bromo-1-indanol | 50 mmol, 10.7 g | Br[C@H]1[C@@H](C2=CC=CC=C2C1)O | C9H9BrO
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol water | 120 ml | CO.O
product | 3-formyl-8-(2-(trans)-hydroxy-2,3-dihydro-1-indenyloxy)-2-methyl-imidazo[1,2-a]pyridine | C(=O)C1=C(N=C2N1C=CC=C2O[C@H]2[C@@H](CC1=CC=CC=C21)O)C | C18H16N2O3
